US07674789B2
230c) 3-(8-(2,6-difluorophenyl)-2-{[3-(ethylamino)propyl]amino}-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl)-4-methyl-N-propylbenzamide
To 3-[2-[(3-chloropropyl)amino]-8-(2,6-difluorophenyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-propylbenzamide (265 mg, 0.50 mmol) in DMF (10 mL) was added ethylamine (1.25 mL, 2.0 M in THF, 2.5 mmol) and potassium carbonate (0.276 g, 2.0 mmol). The mixture was heated at 50° C. for about 20 hours, then at 80° C. for about 4 hours. The mixture was diluted with EtOAc (50 mL), washed with H2O (30 mL+15 mL×2) and brine (20 mL). The organic layers were collected and concentrated. Flash chromatograph afforded the title compound (134 mg, 50%). LC-MS m/z 538 (M+H)+; 1H-NMR (MeOD) δ 0.96-1.02 (m, 6H), 1.61-1.72 (m, 2H), 1.85-1.96 (m, 2H), 2.30 (s, 3H), 3.07 (q, J=7.11 Hz, 2H), 3.19-3.29 (m, 3H), 3.33-3.40 (m, 3H), 3.83 (d, 1H), 3.90 (d, 1H), 6.83-6.99 (m, 3H), 7.51 (d, J=8.03 Hz, 1H), 7.69 (d, J=1.76 Hz, 1H), 7.87 (dd, J=7.91, 1.88 Hz, 1H).

reactant | 3-[2-[(3-chloropropyl)amino]-8-(2,6-difluorophenyl)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-4-methyl-N-propylbenzamide | 0.50 mmol, 265 mg | ClCCCNC=1N=C(C2=C(N(C(NC2)=O)C2=C(C=CC=C2F)F)N1)C=1C=C(C(=O)NCCC)C=CC1C | C26H27ClF2N6O2
reactant | ethylamine | 2.5 mmol, 2.0 M, 1.25 mL | C(C)N | C2H7N
reactant | potassium carbonate | 2.0 mmol, 0.276 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 3-(8-(2,6-difluorophenyl)-2-{[3-(ethylamino)propyl]amino}-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl)-4-methyl-N-propylbenzamide | 134 mg, 50% | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)NCCC)C=CC2C)NCCCNCC)=O | C28H33F2N7O2
